US06239108B1
Succinimidyl 2-Quinolinecarboxylate (On-OSu):
A solution of 2-quinoline carboxylic acid (1.2 eq.) in DMF at 0° C. was treated with EDC (1.4 eq.). The mixture was stirred at 0° C. for 1 to 2 h and then N-hydroxysuccinimide (1.0 eq.) was added. After stirring at RT for more than 3 h, the reaction mixture was poured into 60% sat. NaHCO3 and the product filtered: 1H NMR (CDCl3, 300 MHz, ppm) 8.35 (d, 1H), 8.27 (d, 1H), 8.19 (d, 1H), 7.87 (d, 1H), 7.80 (m, 1H), 7.68 (m, 1H), 2.91 (s, 4H).

reactant | 2-quinoline carboxylic acid | 1.2 eq. | N1=C(C=CC2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | EDC | 1.4 eq.
reactant | N-hydroxysuccinimide | 1.0 eq. | ON1C(CCC1=O)=O | C4H5NO3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | Succinimidyl 2-Quinolinecarboxylate | N1=C(C=CC2=CC=CC=C12)C(=O)ON1C(CCC1=O)=O | C14H10N2O4
